US09227978B2
1-Acryloylpiperazine-2-carboxamide hydrochloride
A mixture of tert-butyl 4-acryloyl-3-carbamoylpiperazine-1-carboxylate (200 mg, 0.706 mmol) in HCl/MeOH (20 mL, 2.86; N) was stirred at room temperature for 1 h. The mixture was concentrated in vacuo to yield the crude product (160 mg) as a yellow solid which was used directly in next step without further purification.

reactant | tert-butyl 4-acryloyl-3-carbamoylpiperazine-1-carboxylate | 0.706 mmol, 200 mg | C(C=C)(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(N)=O | C13H21N3O4
reactant | HCl MeOH | 20 mL | Cl.CO
product | 1-Acryloylpiperazine-2-carboxamide hydrochloride | 160 mg | Cl.C(C=C)(=O)N1C(CNCC1)C(=O)N | InChI=1S/C8H13N3O2.ClH/c1-2-7(12)11-4-3-10-5-6(11)8(9)13;/h2,6,10H,1,3-5H2,(H2,9,13);1H
